US07067517B2
Methyl-phenyl-carbamic acid 2-chloro-5-(4-methylphenyl)-imidazol-1-yl ester
The title compound was prepared from 1-hydroxy-2-chloro-5-(4-methylphenyl)imidazole, hydrochloride and N-methyl-N-phenylcarbamoyl chloride applying the general procedure 8. The crude product was purified by flash chromatography (Quad flash 12, EtOAc-heptane) (80%, oil).

reactant | 1-hydroxy-2-chloro-5-(4-methylphenyl)imidazole, hydrochloride | Cl.ON1C(=NC=C1C1=CC=C(C=C1)C)Cl
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 2-chloro-5-(4-methylphenyl)-imidazol-1-yl ester | ClC=1N(C(=CN1)C1=CC=C(C=C1)C)OC(N(C1=CC=CC=C1)C)=O | C18H16ClN3O2
